US08614206B2
To a solution of cycloheptane-1,3-dione (10 g, 79.3 mmol) in DCM (500 mL) was added pyridine (12.8 mL, 158.6 mmol). The solution was cooled at −78° C. before triflic anhydride (13.2 mL, 95.1 mmol) was added dropwise. The mixture was warmed to 0° C. and left stirring for 4 hr before being quenched with 1 M HCl (150 mL). The organic layer was washed with a saturated solution of sodium hydrogencarbonate (200 mL), passed through a phase separation cartridge and concentrated under reduced pressure to give (E)-3-oxocyclohept-1-enyl trifluoromethanesulfonate as a brown oil. To a solution of this oil (1.8 g, 6.97 mmol) in degassed dioxane (200 mL) was added potassium acetate (15.6 g, 158.6 mmol), bis(pinacolato)diboron (24.2 g, 95.1 mmol) and [1,1′-bis(diphenylphosphino)-ferrocene]dichloropalladium(II) complex with dichloromethane (3.24 g, 3.97 mmol) and the mixture was heated at 90° C. for 18 hr. The mixture was cooled to room temperature, filtered through Celite®, washed with MeOH (50 mL) and the solvents were removed under reduced pressure. The residue was dissolved in degassed dioxane (200 mL) before 5-chloro-1-methyl-4-nitro-1H-pyrazole (15.4 g, 95.1 mmol) was added followed by [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II), complex with dichloromethane (3.24 mg, 3.97 mmol) and a 1/1 aqueous solution of sodium carbonate/potassium acetate (63 mL, 3.8 M). The mixture was heated at 105° C. for 3 hr. The mixture was allowed to cool to room temperature, filtered through Celite® and washed with MeOH (50 mL). The filtrate was concentrated under reduced pressure. The residue was dissolved in EtOAc (50 mL) and washed with water (50 mL). The organic layer was separated, dried over MgSO4 and concentrated under reduced pressure. Purification via silica gel column chromatography (0-50% EtOAc/isohexane) gave (E)-3-(1-methyl-4-nitro-1H-pyrazol-5-yl)cyclohept-2-enone as a light brown solid (7.2 g, 39% over three steps). 1H NMR (400 MHz, CDCl3) δ 8.08 (s, 1H), 6.09 (s, 1H), 3.83 (s, 3H), 2.81-2.77 (m, 2H), 2.71-2.67 (m, 2H), 2.07-1.97 (m, 4H).

reactant | cycloheptane-1,3-dione | 79.3 mmol, 10 g | C1(CC(CCCC1)=O)=O | C7H10O2
reactant | pyridine | 158.6 mmol, 12.8 mL | N1=CC=CC=C1 | C5H5N
reactant | triflic anhydride | 95.1 mmol, 13.2 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
product | (E)-3-oxocyclohept-1-enyl trifluoromethanesulfonate | FC(S(=O)(=O)O\C\1=C\C(CCCC1)=O)(F)F | C8H9F3O4S
